US05106863
To the 5-methoxy-2-mercaptobenzimidazole (2.5 g, 0.014M) in methanol (100 mL) was added geranyl chloride (2.4 g, 0.014M). The solution was taken to pH 11 (2N NaOH), stirred overnight at ambient temperature, evaporated, dissolved in CH2Cl2, washed with saturated NaHCO3 +brine, and dried over Na2SO4. The solvent was evaporated to oil which was flash chromatographed (Rf=0.76) (5% MeOH (CH2Cl2)) to give 2-[(3,7-dimethyl-2,6-(E)-octadienyl)thio]-5-methoxy-1H-1,3-benzimidazole (free base) which was converted to its oxalate salt (0.74 g). m.p. 113°-116° C. NMR (DMSO-d6)δ7.8(m,3H), 5.2 (m, 2H), 3.9(d, J=7 Hz, 2H), 3.8(s, 3H), 2.02(m, 4H),1.7(s,3H), 1.6(s, 6H).

reactant | 5-methoxy-2-mercaptobenzimidazole | 0.014M, 2.5 g | COC1=CC2=C(N=C(N2)S)C=C1 | C8H8N2OS
reactant | geranyl chloride | 0.014M, 2.4 g | C(\C=C(/C)\CCC=C(C)C)Cl | C10H17Cl
reactant | NaOH | 2N | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 2-[(3,7-dimethyl-2,6-(E)-octadienyl)thio]-5-methoxy-1H-1,3-benzimidazole | C\C(=C/CSC1=NC2=C(N1)C=CC(=C2)OC)\CCC=C(C)C | C18H24N2OS
